US08486979B2
3-(N,N-diethylsulfamoyl)benzoic acid
Diethylamine (Aldrich, 2.5 mL, 24 mmol) was added to a solution of 3-(chlorosulfonyl)benzoic acid (Aldrich, 2.0 g, 9.1 mmol) in anhydrous dichloromethane (20 mL) at 0° C. The mixture was then stirred at 0° C. for 2 hours. The volatiles were removed under reduced pressure. The residue was treated with aqueous potassium hydrogensulfate (1 M, 10 mL) and then extracted with ethyl acetate (3×50 mL). The combined extracts were dried over magnesium sulfate filtered and then concentrated to give the title compound. 1H NMR (300 MHz, CD3OD) δ 1.13 (t, J=7.1 Hz, 6 H), 3.22-3.30 (m, 4 H), 7.69 (t, J=7.8 Hz, 1H), 8.03 (ddd, J=7.9, 1.9, 1.4 Hz, 1 H), 8.25 (dt, J=7.8, 1.4 Hz, 1 H), 8.40 (t, J=1.7 Hz, 1 H) ppm; MS (DCI/NH3) m/z 275 (M+NH4)+.

reactant | Diethylamine | 24 mmol, 2.5 mL | C(C)NCC | C4H11N
reactant | 3-(chlorosulfonyl)benzoic acid | 9.1 mmol, 2.0 g | ClS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C7H5ClO4S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 3-(N,N-diethylsulfamoyl)benzoic acid | C(C)N(S(=O)(=O)C=1C=C(C(=O)O)C=CC1)CC | C11H15NO4S
